US05527972
A mixture of triethyl orthoacetate (25 ml), 5,5-dichloro-4-hydroxy-2-methyl-6,6,6-trifluorohex-2-ene (3.5 g), and isobutyric acid (0.11 g) was heated at the reflux temperature. The refluxing volatiles were condensed and collected in a Dean & Stark apparatus containing molecular sieves (4A) to collect the by-product ethanol and separate it from the orthoacetate which was returned to the mixture. After 30 minutes the more volatile components were removed by evaporation under reduced pressure and the residual oil (consisting principally of 5,5-dichloro-4-(1,1-diethoxyethoxy)-2-methyl-6,6,6-trifluorohex-2-ene, 3.8 g) collected. This was then heated with isobutyric acid (10 μl ) at the reflux temperature for 16 hours under a condenser containing molecular sieves (4A) to remove ethanol from the condensate. The residual oil was subjected to purification by column chromatography using a 15:1 (by volume) mixture of hexane:ethyl acetate as eluant and a silica gel column (230-400 mesh, 60 Å) to obtain ethyl 6,6-dichloro-3,3-dimethyl-7,7,7-trifluorohept-enoate, identified by nuclear magnetic resonance, and gas chromatographic mass-spectroscopy.

reactant | triethyl orthoacetate | 25 ml | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | 5,5-dichloro-4-hydroxy-2-methyl-6,6,6-trifluorohex-2-ene | 3.5 g | ClC(C(C=C(C)C)O)(C(F)(F)F)Cl | C7H9Cl2F3O
reactant | isobutyric acid | 0.11 g | C(C(C)C)(=O)O | C4H8O2
product | ethyl 6,6-dichloro-3,3-dimethyl-7,7,7-trifluorohept-enoate | ClC(C=CC(CC(=O)OCC)(C)C)(C(F)(F)F)Cl | C11H15Cl2F3O2
